US07932246B2
6-(5-Naphthalen-2-ylmethyl-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)pyridine-5-carboxylic acid
To a suspension of ethyl 6-(5-naphthalen-2-ylmethyl-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)pyridine-5-carboxamide (0.255 g, 0.63 mmol) in EtOH (2 ml) was added 6M NaOH (2 ml, 12 mmol). The mixture was heated at 80° C. for 90 min and then cooled to r.t. Concentrated HCl was then added until a precipitate formed, and the solid was collected by filtration (240 mg, quant.). The compound was carried onto the next step without characterization.

reactant | ethyl 6-(5-naphthalen-2-ylmethyl-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)pyridine-5-carboxamide | 0.63 mmol, 0.255 g | C(C)C1=NC(=C(C=C1)C(=O)N)N1CC2CN(CC2C1)CC1=CC2=CC=CC=C2C=C1 | C25H28N4O
reactant | NaOH | 12 mmol, 6M, 2 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | EtOH | 2 ml | CCO | C2H6O
product | 6-(5-Naphthalen-2-ylmethyl-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)pyridine-5-carboxylic acid | C1=C(C=CC2=CC=CC=C12)CN1CC2C(C1)CN(C2)C2=C(C=CC=N2)C(=O)O | C23H23N3O2
